US09079866B2
5-[3-Fluoro-2′-(trifluoromethoxy)biphenyl-4-yl]pyrazin-2-amine
The title compound was prepared using analogous conditions to those described in Example 1 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 2-(trifluoromethoxy)bromobenzene. MS (ESI): mass calcd. for C17H11F4N3O, 349.08; m/z found, 350.0 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.39 (s, 1H), 8.02 (s, 1H), 7.96 (m, 1H), 7.65-7.47 (m, 4H), 7.42 (d, J=5.1, 1H), 7.39 (s, 1H), 6.73 (s, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-(trifluoromethoxy)bromobenzene | FC(OC1=C(C=CC=C1)Br)(F)F | C7H4BrF3O
product | 5-[3-Fluoro-2′-(trifluoromethoxy)biphenyl-4-yl]pyrazin-2-amine | FC=1C=C(C=CC1C=1N=CC(=NC1)N)C1=C(C=CC=C1)OC(F)(F)F | C17H11F4N3O
